Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Morphine / Pravachol / Sulfa (Sulfonamide Antibiotics) / Zestril
 
Attending: ___
 
___ Complaint:
Lethargy
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Ms. ___ is a ___ woman with history of atrial
fibrillation (on apixaban), moderate aortic stenosis, coronary
artery disease s/p stents to LAD, LCx, and CABG ___ (LIMA-LAD,
SVG-RPDA-PL), COPD with pulmonary hypertension on 3L home O2, 
and
heart failure with preserved EF, DMII, who presents today with
lethargy and weakness.  

Per review of notes, the patient recently presented to the ED 
for
headache and dizziness on ___. CTA head negative for acute
process. Patient was thought to have headache with peripheral
vertigo.

History is obtained from the chart and from reviewing ED
documentation. The patient is able to provide only extremely
limited history. She reports to me that she has abdominal pain.
To the ED providers, she reported two days of abdominal pain,
nausea, and vomiting. She denied fevers, chills, shortness of
breath, cough, diarrhea.

The ED provider spoke with the patient's daughter and reports 
the
following additional history. Her daughter reports that she was
called by a home health aid yesterday because patient was not
eating and was not walking to the bathroom. Daughter assessed 
her
and noted that she was lethargic, confused and generally weak.
She wasn't able to sit upright. She was not taking her
medications without prompting, was not taking her insulin.
Daughter reported that patient has continued to have worsening 
of
lethargy since presenting to the ED on ___. She also reports
minimal PO intake over the past couple of days. Daughter noted
that this presentation is similar to when she has a UTI in the
past. 

According to her daughter, at her baseline Ms. ___ is alert
and oriented x3, no history of dementia. Since she got home from
rehab ___ months ago from a hospitalization at ___ she has had a
decline in functional status. She would frequently stay in bed.
She requires assistance with dressing and has occasionally 
needed
assistance with feeding over the past 3 weeks. She lives on the
first floor of a 3 family home with daughter living upstairs.
Home health aid during the week is present from about 9am in the
morning until 8pm at night. 

In the ED, vitals: 97.5 77 95/48 22 98% 3L NC 
Exam notable for: uncomfortable appearing; alert and oriented to
self and place not to time; upper quadrants tender bilaterally
mildly worse on RUQ then LUQ. ___ negative, no rebound or
guarding. No suprapubic tenderness
Labs notable for: WBC 13.9, BUN/Cr 33/1.7, AST 63, Tbili 1.9,
proBNP 3285, trop <0.01; UA bacteria, WBC 26, lg leuks, neg nitr
Imaging: CXR, CT A/P
Patient given: Vancomycin 750 mg, ceftriaxone 1 gm, LR 250 cc

On arrival to the floor, the patient reports right upper 
quadrant
pain. Unable to obtain additional history due to altered mental
status.

ROS: Unable to obtain due to altered mental status.

 
Past Medical History:
pHTN on 3L O2
CAD s/p CABG and multiple ___
HFpEF (LVEF = 55% in ___
Hypertension
T2DM
Hyperlipidemia
Peripheral Neuropathy  
h/o herniated disk 
Macular degeneration of L eye 
 
Social History:
___
Family History:
There is no family history of premature coronary artery disease
or sudden death.
 
Physical Exam:
ADMISSION:
VITALS: 97.3 142/81 77 22 97 2.5L NC 
GENERAL: Somnolent but arousable
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, III/VI systolic murmur
RESP: Lungs with bibasilar crackles, L>R. Breathing is
non-labored
GI: Abdomen soft, non-distended, tender to palpation in right
upper quadrant. Bowel sounds present.
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
NEURO: Somnolent but arousable, face symmetric, moves all limbs
===========================
VITALS: ___ 0805 Temp: 97.5 Axillary BP: 121/80 HR: 81 RR: 
14 O2 sat: 95% O2 delivery: 1L NC 
GENERAL: Sleeping, appears comfortable, not awakening to voice
RESP: Breathing is non-labored, wearing nasal cannula O2
GU: No Foley
MSK: Not moving extremities
NEURO: Sleeping, not alert
PSYCH: Calm, no longer yelling out

 
Pertinent Results:
ADMISSION LABS:
___ 12:15PM BLOOD WBC-13.9* RBC-4.20 Hgb-12.9 Hct-38.5 
MCV-92 MCH-30.7 MCHC-33.5 RDW-13.9 RDWSD-46.0 Plt ___
___ 12:15PM BLOOD Neuts-76.1* Lymphs-17.8* Monos-4.8* 
Eos-0.3* Baso-0.4 Im ___ AbsNeut-10.57* AbsLymp-2.47 
AbsMono-0.67 AbsEos-0.04 AbsBaso-0.06
___ 12:15PM BLOOD ___ PTT-26.8 ___
___ 12:15PM BLOOD Glucose-152* UreaN-33* Creat-1.7* Na-131* 
K-7.8* Cl-89* HCO3-22 AnGap-20*
___ 12:15PM BLOOD ALT-<5 AST-63* CK(CPK)-134 AlkPhos-78 
TotBili-1.9* DirBili-0.3 IndBili-1.6
___ 12:15PM BLOOD Lipase-21
___ 12:15PM BLOOD CK-MB-3 cTropnT-<0.01 proBNP-___*
___ 12:20PM BLOOD Lactate-1.9 K-4.1
================
DISCHARGE LABS:
================
MICROBIOLOGY:
Blood culture x2 ___: No growth (final)
Urine culture ___: No growth (final)
================
IMAGING:
CTA HEAD/NECK ___:
1. No evidence of acute infarction, hemorrhage or intracranial 
mass. 
2. Approximately 70-75% stenosis of both proximal internal 
carotid arteries by NASCET criteria. 
3. Mild and moderate stenosis at the origins of the great 
vessels and right vertebral artery origin. 
4. 3 mm left apical pulmonary nodule, unchanged from ___.  A six-month follow-up CT chest was recommended at that 
time point for close follow-up evaluation, which would have been 
due in ___. 

CT A/P with contrast (___): No acute abnormality in the abdomen 
or pelvis to explain patient's acute symptoms. No bowel 
obstruction. Mild intra and extrahepatic biliary ductal dilation 
is unchanged from ___ and presumably related to 
cholecystectomy. The kidneys are of normal and symmetric size 
with normal nephrogram. 

CXR (___): Comparison to ___. Stable alignment of 
the sternal wires. Stable mild enlargement of the cardiac 
silhouette. The left lung basis shows a parenchymal opacity that 
might reflect a combination of pneumonia and pleural effusion. 
No pulmonary edema. Unremarkable alignment of the sternal wires. 


CT CHEST/ABD/PELVIS WITHOUT CONTRAST ___:
1. 1.1 cm subpleural nodule with the left upper lobe and 0.5 cm 
nodule in the right upper lobe are unchanged compared to ___ imaging surveillance is recommended in 6 months 
to ___ year. 
2. Unchanged 1.4 cm enlarged para-aortic lymph node. 
3. Reticular opacities in bilateral lung bases are likely 
reflect interstitial lung disease.  The finding is more 
prominent compared to ___, likely with some 
superimposed atelectasis. 
4. Contrast retention in bilateral kidneys are consistent with 
history of 
acute renal failure. 
RECOMMENDATION(S):   Continued CT surveillance of the pulmonary 
nodules in 6 months to ___ year. 

TTE ___:
Suboptimal image quality. No obvious vegetations, but cannot 
exclude due to image quality. Mild symmetric left ventricular 
hypertrophy with low normal global systolic function. Right 
ventricular cavity dilation and hypokinesis. Severe aortic valve 
stenosis. At least mild-moderate
mitral regurgitation. Mild-moderate tricuspid regurgitation and 
severe pulmonary artery systolic hypertension. If clinically 
suggested, the absence of a discrete vegetation on 
echocardiography does not exclude the diagnosis of endocarditis. 
Compared with the prior TTE (images not available for review) of 
___ , the severity of aortic
stenosis is now increased. The severity of pulmonary 
hypertension has increased.

CT HEAD WITHOUT CONTRAST ___:
No gross intracranial hemorrhage on severely limited exam. 

 
Brief Hospital Course:
Ms. ___ is a ___ woman with chronic atrial 
fibrillation (on apixaban), moderate aortic stenosis, coronary 
artery disease s/p stents to LAD, LCx, and
CABG ___ (LIMA-LAD, SVG-RPDA-PL), COPD with pulmonary 
hypertension on 3L home O2, heart failure with preserved EF, DM 
type II, who presented with several weeks of increasing lethargy 
and weakness. She was found to have persistent and slightly
worsening left lower lobe lung infiltrate (from ___ 
consistent with likely pneumonia.  Her hospital course has been 
complicated by acute renal failure, which is slowly improving 
and likely due to CIN.  Her course has also been complicated by 
acute encephalopathy, likely due in part to status epilepticus. 
However, her mental status was not significantly improving 
despite improved EEG on anti-epileptic therapy and empiric 
antibiotic and antiviral therapy for encephalitis.  Ultimately, 
I had a family meeting with the patient's son and daughter, as 
well as palliative care and neurology on ___ and her family 
decided to transition her to comfort measures only.  She was 
discharged to ___ facility in ___.

ACUTE/ACTIVE PROBLEMS:
# Comfort measures only:
- Discontinued all medications except PRN nebs.  She was on 
Keppra and Valproic acid to help prevent seizures for comfort 
and on discharge, will switch to PRN Ativan.  She had PRN IV 
Dilaudid for pain and Haldol for agitation.  Regular diet was 
allowed for pleasure.  Palliative care was following and then 
she was seen by ___.

# Status epilepticus: Continuous EEG was consistent with status 
epilepticus. Received loading 1500 of valproate and 1 of Ativan. 
Per neuro could be due to underlying encephalopathy plus 
antibiotics reducing seizure threshold, but also could be 
primary neurologic process (infectious vs inflammatory vs 
paraneoplastic)
going on for months that has been worsening in the past week. 
She had normal TSH.  LP was NOT within goals of care, 
extensively discussed with daughter, so she was empirically 
given Ampicillin and Acyclovir, which were stopped on ___ 
when she was changed to CMO.  On ___, discussed with 
neurologist who read her EEG and reported that she was still 
having discharge but improved since starting Keppra.  EEG was 
stopped on ___ and she was continued on IV Valproic acid 
(since ___ and Keppra 250mg BID (since ___ until discharged 
on ___.  As discussed with palliative, neurology, and the 
patient's daughter, she was not discharged on scheduled Keppra 
and Valproic acid, but will have PRN Ativan if overt signs of 
seizure or discomfort.

# Lethargy:
# Leukocytosis:
# LLL lung infiltrate: Patient presented with lethargy, 
confusion and report of abdominal pain and vomiting, plus 
leukocytosis, suspect symptoms due to infection. Urinalysis with 
26 WBC but urine culture negative, so unlikely to be UTI. 
Unclear if patient has respiratory complaints and oxygen 
requirement is at baseline, but CXR with left-sided 
consolidation was concerning for possible pneumonia. She also 
had a consolidation in the same spot on last chest x-ray in 
___. CT scan did not
show significant pneumonia. Blood and urine cultures had no 
growth. WBC was rising while on antibiotics, but resolved, and 
she has been afebrile.  ID was consulted.  She was on empiric 
Zosyn, Azithromycin, Vancomycin, then changed to 
Ceftazidime/Azithromycin for several days, stopped ___. 
Discontinued empiric IV Acyclovir and Ampicillin (___) for 
encephalitis coverage since CMO.

# Toxic-metabolic encephalopathy: CT head without contrast on 
___ showed no acute abnormalities, though limited study.  
Concern for possible encephalitis given altered mental status, 
so per discussion with ID on ___, she was empirically started 
on IV ampicillin to cover for Listeria and Acyclovir for HSV 
coverage,
since she has previously insisted she would not want an LP and 
confirmed with her daughter. Her encephalopathy was likely in 
part due to seizures in setting of renal failure, possible 
initial infection, and chronic atrophy. Mental status had not
significantly improved despite improvement on EEG after 
anti-epileptic therapy was started or after being on empiric 
antiviral/antibiotic therapy.  Prognosis was discussed with 
neurology who discussed with the family that she could have 
neurologic recovery, but likely would be a prolonged process 
given significant chronic brain atrophy and her age and that she 
had been in status epilepticus.  Ultimately her family felt she 
would not want to go through a long recovery and would rather be 
made comfortable, so further workup and management was stopped.

# Acute renal failure on chronic kidney disesase stage III: 
# Metabolic acidosis
# Hyperphosphatemia:
Recent baseline Cr 1.1-1.2; 1.7 on admission and increased very 
quickly up to 3.8. Still making urine.  Most likely due to CIN 
in setting of contrast given for CT scans. Had wanted to give 
sodium bicarb BID - but she could not take oral and IV is on 
severe shortage. Held home torsemide given not eating/drinking 
and did not appear hypervolemic.  Renal was following. Her renal 
function was gradually improving.

# Chronic hypoxic respiratory failure: On 3L NC chronically.
# Chronic diastolic congestive heart failure: LVEF 55-60%
# Pulmonary HTN, COPD on 3L O2 (home requirement): Pro-BNP was 
elevated to 3285 but has been chronically elevated, with no 
evidence of pulmonary edema. However, creatinine was rising off 
diuretics after bolus in ED.  Stable on ___ NC. Her home 
torsemide, metoprolol, spironolactone were held during hospital 
course and on discharge.

# Hyponatremia: Likely was due to torsemide, which was held, and 
resolved.
# Hypernatremia: She developed hypernatremia to 149 on ___, 
likely in setting of being NPO and not being on IV fluids and 
worsened to 155 on ___, so had started on D5W.  Discontinued D5W 
and all labs since CMO.

# Hypokalemia: K was low at 3.3 and ordered for repletion on 
___, but discontinued monitoring since CMO.

CHRONIC/STABLE PROBLEMS:
# CAD s/p CABG: TTE was not significantly changed. Held 
ASA/statin/beta-blocker since not taking orals and will not 
restart since CMO.

# HTN: Held home Metoprolol while NPO --> will not resume since 
CMO.

# HLD: Discontinued statin since CMO.

# Atrial fibrillation: Adequately rate controlled off beta 
blocker except occasionally in low 100s.  Had held metoprolol 
and apixaban since she was NPO and now stopped because CMO.

# DM type II: Held home Lantus and Sitagliptin while NPO and 
stopped all glucose checks and insulin.

# COPD: No evidence of acute exacerbation. PRN nebs were given 
for comfort.

# Chronic pain: During her hospital course, her home gabapentin 
and oxycodone were held in setting of altered mental status and 
no oral intake.  These were not restarted on discharge.

TRANSITION OF CARE ISSUES:
- She was discharged to ___ facility in ___ 
with ___, where they will provide her medications 
including PRN Dilaudid, Ativan, Haldol.

Ms. ___ is clinically stable for discharge today. The total 
time spent today on discharge planning, counseling and 
coordination of care was greater than 30 minutes.

 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Albuterol 0.083% Neb Soln 1 NEB IH Q6H:PRN shortness of 
breath 
2. Apixaban 2.5 mg PO BID 
3. Artificial Tears 1 DROP BOTH EYES TID 
4. Atorvastatin 80 mg PO QPM 
5. Bisacodyl 10 mg PO DAILY:PRN Constipation - First Line 
6. Docusate Sodium 100 mg PO BID:PRN Constipation - First Line 
7. Gabapentin 300 mg PO BID 
8. Lidocaine 5% Patch 1 PTCH TD QAM foot pain 
9. Loratadine 10 mg PO DAILY 
10. Metoprolol Succinate XL 12.5 mg PO DAILY 
11. Omeprazole 20 mg PO DAILY 
12. Polyethylene Glycol 17 g PO DAILY 
13. Senna 8.6 mg PO BID:PRN Constipation - Second Line 
14. Spironolactone 50 mg PO DAILY 
15. Acetaminophen 650 mg PO Q4H:PRN Pain - Mild/Fever 
16. Aspirin 81 mg PO DAILY 
17. Dibucaine 1 % topical TID:PRN hemorrhoids 
18. Diff-Stat (Sacch boulardi-Bacill coag-FOS) 471 mg oral BID 
19. Hydrocortisone (Rectal) 2.5% Cream ___ID 
20. SITagliptin 100 mg oral QHS 
21. Symbicort (budesonide-formoterol) 160-4.5 mcg/actuation 
inhalation BID 
22. Torsemide 100 mg PO DAILY 
23. LORazepam 0.5 mg PO Q6H:PRN anxiety/pain 
24. OxyCODONE (Immediate Release) 5 mg PO Q6H:PRN Pain - 
Moderate 
  Reason for PRN duplicate override: discontinuing vicoden
25. Levemir 25 Units Bedtime

 
Discharge Medications:
1.  Acetaminophen IV 1000 mg IV Q6H:PRN Fever Duration: 24 Hours 
 
2.  Haloperidol 1 mg IV Q6H:PRN Agitation  
3.  HYDROmorphone (Dilaudid) 0.25 mg IV Q1H:PRN Signs of 
discomfort  
4.  LORazepam 2 mg IV X2 PRN Seizures 
Lorazepam IV 2mg may
repeat in ___ minutes until calm 
5.  Albuterol 0.083% Neb Soln 1 NEB IH Q6H:PRN shortness of 
breath  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Toxic metabolic encephalopathy
Status epilepticus
Leukocytosis
Acute kidney injury on CKD III
Metabolic acidosis
Hyperphosphatemia
Chronic hypoxic respiratory failure
Chronic diastolic heart failure
Hypo/hypernatremia
Hypokalemia
Type 2 diabetes

 
Discharge Condition:
Mental Status: Confused - always.
Level of Consciousness: Lethargic and not arousable.
Activity Status: Bedbound.

 
Discharge Instructions:
You were hospitalized with confusion and altered mental status.  
You were found to have seizures and treated with anti-seizure 
medication, which helped some.  You were also given antibiotic 
and antiviral therapy in case of infection in your nervous 
system.  You had kidney failure that may have been due to 
contrast dye for CT scans, but this was improving.  You had high 
sodium likely due to dehydration.  Your family ultimately 
decided to focus on making you as comfortable as possible and 
you are being discharged to a hospice care facility, where you 
will continue to have medical care to keep you comfortable.
 
Followup Instructions:
___